US06965040B1
A solution of 2-(2-nitrophenyl)propyl chloroformate (6.0 g, 24.6 mmol) in methylene chloride (20 mL) was added dropwise to a solution of hydrazine (3.0 mL, 98 mmol) in methylene chloride (50 mL) over a period of 30 min. The reaction mixture was stirred at room temperature for an additional 15 min. The solvent was evaporated to afford light brown oil. The residue was purified on a silica gel column. Elution of the column with 20% ethyl acetate in hexanes gave 3.35 g (14 mmol, 57% yield) of 2-(2-nitrophenyl)propoxycarbonyl hydrazine. 1H-NMR (600 MHz, DMSO-d6): δ 8.10 (s, 2H, CONH), 7.82 (d, J=7.5 Hz, 1 H, Ar—H), 7.67 (m, 2 H, Ar—H), 7.47 (m, 1 H, Ar—H), 4.15 (d, J=7.2 Hz, 2 H, CH2), 3.9 (s, 2 H, NH2), 3.39 (m, 1 H, CH), 1.25 (d, J=6.9 Hz, 3 H, CH3). 13C-NMR (150 MHz, DMSOd6): δ 157.99 (OCOR), 150.00 (C ipso to NO2), 136.72 (C ipso to CH(CH3)CH2OCOR), 132.86 (C para to NO2), 128.55 (C para to CH(CH3)CH2OCOR), 127.69 (C ortho to CH(CH3)CH2OCOR), 123.68 (C ortho to NO2), 67.49 (CH2OCOR), 33.36 (CH), 17.93 (CH3). Mass analysis (MALDI-TOF): calculated for C10H13N3O4 239.23, found 239.20 (C10H13N3O4Na 262.18 is the major peak). TLC: 5% methanol in chloroform, Rf=0.5.

reactant | 2-(2-nitrophenyl)propyl chloroformate | 24.6 mmol, 6.0 g | ClC(=O)OCC(C)C1=C(C=CC=C1)[N+](=O)[O-] | C10H10ClNO4
reactant | hydrazine | 98 mmol, 3.0 mL | NN | H4N2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-nitrophenyl)propoxycarbonyl hydrazine | 14 mmol, 3.35 g, 57% yield | [N+](=O)([O-])C1=C(C=CC=C1)C(COC(=O)NN)C | C10H13N3O4
